US07071216B2
A mixture of 2-(dimethylamino)-5-nitropyridine (1 eq) and 5% palladium on carbon (0.3 eq) in ethanol was stirred at room temperature and flushed with nitrogen. The reaction vessel was evacuated and purged with hydrogen three times. The reaction mixture was left under an atmosphere of hydrogen overnight. Nitrogen was flushed through the reaction and then the reaction was filtered through a celite pad. The celite pad was washed with excess ethanol before the solvent was removed by evaporation under reduced pressure to afford 2-(dimethylamino)-5-aminopyridine.

reactant | 2-(dimethylamino)-5-nitropyridine | 1 eq | CN(C1=NC=C(C=C1)[N+](=O)[O-])C | C7H9N3O2
catalyst | palladium on carbon | 0.3 eq | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(dimethylamino)-5-aminopyridine | CN(C1=NC=C(C=C1)N)C | C7H11N3
